US07074796B2
3-(4-Chlorobutyl)-5-fluoro-1H-indole
from 6-chlorohexan-1-ol and 4-fluorophenylhydrazine hydrochloride

reactant | 6-chlorohexan-1-ol | ClCCCCCCO | C6H13ClO
reactant | 4-fluorophenylhydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
product | 3-(4-Chlorobutyl)-5-fluoro-1H-indole | ClCCCCC1=CNC2=CC=C(C=C12)F | C12H13ClFN
